US06124281
(a) Ethyl 4-(5-chloro-2-nitrophenyl)-4-hydroxy-2-butynoate
To a solution of ethyl propiolate (4.05 mL, 40 mmol) in tetrahydrofuran (125 mL) at -78° C. under nitrogen was added n-BuLi (2.5 mL, 40 mmol, 1.6M in hexane). The reaction mixture was stirred at about -70° C. for 0.5 hours and then 2-nitro-5-chlorobenzaldehyde (6.75 g, 36.4 mmol) was added dropwise. The reaction mixture was stirred at -78° C. for 0.25 hours, warmed to -60° C., quenched with acetic acid (5 mL) and then warmed to room temperature. The reaction mixture was partitioned between ether (250 mL) and water (250 mL). The layers were separated and the organic layer was washed with brine (250 mL) and dried over Na2SO4. The mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography eluting with hexane/ethyl acetate (4:1) to afford 6.12 g (59%) of the title compound as a yellow oil which solidified on standing.

reactant | ethyl propiolate | 40 mmol, 4.05 mL | C(C#C)(=O)OCC | C5H6O2
reactant | n-BuLi | 40 mmol, 1.6M, 2.5 mL | [Li]CCCC
reactant | 2-nitro-5-chlorobenzaldehyde | 36.4 mmol, 6.75 g | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)Cl | C7H4ClNO3
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
product | Ethyl 4-(5-chloro-2-nitrophenyl)-4-hydroxy-2-butynoate | 6.12 g, 59% | ClC=1C=CC(=C(C1)C(C#CC(=O)OCC)O)[N+](=O)[O-] | C12H10ClNO5
